US08859732B2
N-(3-Methoxy-4-methoxycarbonylphenyl) 3,4,5-tris(octadecyloxy)cyclohexylcarboxamide (70 mg, 0.06 mmol) was dissolved in dehydrated THF (1 ml), 1M DIBAL/toluene (0.2 ml, 0.012 mmol) was added dropwise, and the mixture was stirred for 5 hr. After completion of the reaction, 1N hydrochloric acid was added to quench the reaction, and the mixture was extracted with chloroform (5 ml) and washed with 1N hydrochloric acid (3 ml). The solvent was evaporated and the residue was precipitated with methanol (10 ml) and slurry-washed with acetonitrile (5 ml) and 1N hydrochloric acid (5 ml) to give N-(4-hydroxymethyl-3-methoxyphenyl) 3,4,5-tris(octadecyloxy)cyclohexylcarboxamide (60 mg, 0.06 mmol, yield 100%).

reactant | N-(3-Methoxy-4-methoxycarbonylphenyl) 3,4,5-tris(octadecyloxy)cyclohexylcarboxamide | 0.06 mmol, 70 mg | COC=1C=C(C=CC1C(=O)OC)NC(=O)C1CC(C(C(C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C70H129NO7
reactant | DIBAL toluene | 0.012 mmol, 1M, 0.2 ml | CC(C)C[AlH]CC(C)C.C1(=CC=CC=C1)C
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | N-(4-hydroxymethyl-3-methoxyphenyl) 3,4,5-tris(octadecyloxy)cyclohexylcarboxamide | 0.06 mmol, 60 mg, yield 100% | OCC1=C(C=C(C=C1)NC(=O)C1CC(C(C(C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OC | C69H129NO6
